US09376426B2
3.1 21 ml of water are added to a solution of 3.10 g (15.0 mmol) of 3-chloro-6-phenoxypyridazine in 21 ml of formic acid, and the mixture is heated at 95° C. for 85 hours. The reaction mixture is cooled and brought to a pH of 6 using 23% aqueous sodium hydroxide solution. The precipitate formed is filtered off with suction, washed with water and dried in vacuo, giving 6-phenoxy-2H-pyridazin-3-one as colourless crystals; ESI 189.

reactant | water | O | H2O
reactant | 3-chloro-6-phenoxypyridazine | 15.0 mmol, 3.10 g | ClC=1N=NC(=CC1)OC1=CC=CC=C1 | C10H7ClN2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | formic acid | 21 ml | C(=O)O | CH2O2
product | 6-phenoxy-2H-pyridazin-3-one | O(C1=CC=CC=C1)C=1C=CC(NN1)=O | C10H8N2O2
